US07595426B2
Palladium on carbon (10%, 300 mg), aqueous sodium hydroxide solution (35% strength, 26.5 g, 232 mmol, 3.7 equivalents), 62 g of water and 1,3,5-trichloro-2,4,6-trifluorobenzene (15 g, 62 mmol) were placed in a pressure vessel. After flushing with nitrogen, the pressure vessel was heated to 140° C. and pressurized with 30 bar of hydrogen. A hydrogen pressure of 30 bar was maintained at 140° C. for 12 hours. After cooling to 20-25° C., the pressure vessel was depressurized. The reaction solution was subjected to an azeotropic distillation via a distillation attachment; the distillate went over at a temperature of 99.5° C. After separation of the phases, the lower organic phase comprised the title compound. Washing with water and drying gave 8.05 g of 1,3,5-trifluorobenzene (98% of theory).

reactant | sodium hydroxide | 232 mmol, 26.5 g, 3.7 equivalents | [OH-].[Na+]
reactant | 1,3,5-trichloro-2,4,6-trifluorobenzene | 62 mmol, 15 g | ClC1=C(C(=C(C(=C1F)Cl)F)Cl)F | C6Cl3F3
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
solvent | water | 62 g | O | H2O
product | 1,3,5-trifluorobenzene | 8.05 g, 98% | FC1=CC(=CC(=C1)F)F | C6H3F3
